US05965591
3-(2-Aminoethoxy)-5-difluoromethoxy-1,2-benzisoxazole hydrochloride
To a solution of 5-hydroxy-3-(2-(N-t-butoxycarbonylamino)ethoxy)-1,2-benzisoxazole (100 mg) in dimethylformamide (4 ml) was added sodium methoxide (90 mg) and the mixture was stirred at room temperature for 10 minutes, then followed by introduction of chlorodifluoromethane gas for 20 minutes. The reaction mixture was poured into ice water (30 ml), extracted with ethyl acetate (twice each with 30 ml) and the combined extracts were dried over anhydrous magnesium sulphate and filtered. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (9/1) as an eluent, to give the title compound (19 mg, 16%) as a colorless powder.

reactant | 5-hydroxy-3-(2-(N-t-butoxycarbonylamino)ethoxy)-1,2-benzisoxazole | 100 mg | OC=1C=CC2=C(C(=NO2)OCCNC(=O)OC(C)(C)C)C1 | C14H18N2O5
reactant | sodium methoxide | 90 mg | C[O-].[Na+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-(2-Aminoethoxy)-5-difluoromethoxy-1,2-benzisoxazole hydrochloride | 19 mg, 16% | Cl.NCCOC1=NOC2=C1C=C(C=C2)OC(F)F | InChI=1S/C10H10F2N2O3.ClH/c11-10(12)16-6-1-2-8-7(5-6)9(14-17-8)15-4-3-13;/h1-2,5,10H,3-4,13H2;1H
